US05093370
First, 707 mg of 1,4-bis(6-ethoxycarbonyl-3-hexenyl)benzene was dissolved in 14 ml of ethanol, and after adding 70 mg of 5% palladium/carbon, the mixture was stirred under hydrogen flow at a room temperature for 2 hours, filtered to remove the catalyst, and concentrated under a reduced pressure to obtain 601 mg of 1,4-bis(6-ethoxycarbonylhexyl)benzene as a colorless liquid.

reactant | 1,4-bis(6-ethoxycarbonyl-3-hexenyl)benzene | 707 mg | C(C)OC(=O)CCC=CCCC1=CC=C(C=C1)CCC=CCCC(=O)OCC | C24H34O4
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 70 mg | [Pd] | Pd
product | 1,4-bis(6-ethoxycarbonylhexyl)benzene | 601 mg | C(C)OC(=O)CCCCCCC1=CC=C(C=C1)CCCCCCC(=O)OCC | C24H38O4
